US04617389
This compound was prepared by the procedure described in Example 1, except that the potassium carbonate was omitted. From 125 mg. of mitomycin A and 85 mg. of 2-phenylcyclopropylamine was obtained 70 mg. (63%) of the desired product decomposing at temperatures above 250° C. and providing the following analysis:

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | mitomycin A | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
product | 2-phenylcyclopropylamine | C1(=CC=CC=C1)C1C(C1)N | C9H11N
